US05149859
Synthesis of N-hydroxy-N-(1-hydroxy-2-naphthyl)-5-methoxycarbonylpentanamide
Into a 25 ml methylene chloride solution of 500 mg (3.12 mmol) of monomethyl adipate and 240 μl (3.12 mmol) of DMF was added 613 μl (7.02 mmol) of oxalyl chloride at 0° C., and the mixture was stirred as such for one hour. The mixture was then added to a solution of 3.4 g (16 mmol) of 1-hydroxy-2-naphthylhyiroxylamine hydrochloride, 3.3 ml (24 mmol) of triethylamine in THF (25 ml), and water (5 ml), at 0° C., and after stirring at 0° C. for one hour and at room temperature for one hour, the reaction was completed with aqueous KHSO4, and the mixture was extracted with methylene chloride. The organic layer was washed with 4N HCl and then with saturated aqueous NaCl, and dried over anhydrous magnesium sulfate, and after evaporation of the solvent under a reduced pressure, the residue was subjected to silica gel column chromatography to give 762 mg (77%) of the desired product.

reactant | monomethyl adipate | 3.12 mmol, 500 mg | C(CCCCC(=O)[O-])(=O)OC
reactant | DMF | 3.12 mmol, 240 μl | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 7.02 mmol, 613 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 24 mmol, 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | water | 5 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-hydroxy-N-(1-hydroxy-2-naphthyl)-5-methoxycarbonylpentanamide | 762 mg, 77% | ON(C(CCCCC(=O)OC)=O)C1=C(C2=CC=CC=C2C=C1)O | C17H19NO5
